US06890924B2
A mixture of 2-Chloro-N-[3-(4-chloro-quinazolin-6-yl)-prop-2-ynyl]-acetamide (0.90 g, 3.05 mmol) and 3-Methyl-4-(pyridin-3-yloxy)-phenylamine (0.61 g, 3.05 mmol) in tBuOH/DCE (5.0/5.0 mL) was refluxed under nitrogen for 40 minutes and concentrated. The residue was dissolved in MeOH (2.0 mL) and added to EtOAc with vigorous stirring to precipitate the HCI salt product as tan solid which was collected by vacuum-filtration, rinsed with EtOAc, and further dried to give 1.24 g (82%) of 2-Chloro-N-(3-{4-[3-methyl-4-(pyridin-3-yloxy)-phenylamino]-quinazolin-6-yl}-prop-2-ynyl)-acetamide: 1H NMR (CD3OD) δ 2.27 (s, 3H), 4.09 (s, 2H), 4.29 (s, 2H), 7.07 (d, 1H), 7.51 (m, 2H), 7.60 (d, 1H), 7.70 (s, 1H), 7.78 (d, 1H), 8.05 (d, 1H), 8.32 (m, 2H), 8.67 (s, 1H), 8.75 (s, 1H); MS m/z (MH+) 458.0.

reactant | 2-Chloro-N-[3-(4-chloro-quinazolin-6-yl)-prop-2-ynyl]-acetamide | 3.05 mmol, 0.90 g | ClCC(=O)NCC#CC=1C=C2C(=NC=NC2=CC1)Cl | C13H9Cl2N3O
reactant | 3-Methyl-4-(pyridin-3-yloxy)-phenylamine | 3.05 mmol, 0.61 g | CC=1C=C(C=CC1OC=1C=NC=CC1)N | C12H12N2O
solvent | tBuOH DCE | 5.0 mL | CC(C)(C)O.ClCCCl
product | 2-Chloro-N-(3-{4-[3-methyl-4-(pyridin-3-yloxy)-phenylamino]-quinazolin-6-yl}-prop-2-ynyl)-acetamide | 1.24 g, 82% | ClCC(=O)NCC#CC=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)OC=1C=NC=CC1)C | C25H20ClN5O2
